US09227976B2
2-(4-chloro-3-(cylopent-1-en-1-yl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)-1-(pyrrolidin-1-yl)ethanone (Compound In)
Compound In was synthesized according to Example 1 Step 8, except 2-(4-chloro-3-iodo-5-phenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)-1-(pyrrolidin-1-yl)ethanone was used instead of 4-chloro-3-iodo-1-(2-(4-methylpiperazin-1-yl)ethyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine and 2-(cyclopent-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane was used instead of 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole.

reactant | 2-(4-chloro-3-iodo-5-phenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)-1-(pyrrolidin-1-yl)ethanone | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2I)CC(=O)N2CCCC2 | C17H15ClIN5O
reactant | 2-(cyclopent-1-en-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C1(=CCCC1)B1OC(C(O1)(C)C)(C)C | C11H19BO2
product | 2-(4-chloro-3-(cylopent-1-en-1-yl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazin-1-yl)-1-(pyrrolidin-1-yl)ethanone | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CCCC2)CC(=O)N2CCCC2 | C22H22ClN5O
